US05356898
Dimethylformamide (0.05 g, 0.6 mmoles) is cooled to 0° C. in 10 mL of acetonitrile under argon. Oxalyl chloride (0.1 g, 0.9 mmoles) is added and the reaction mixture is stirred at 0° C. for 10 minutes. 4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)-methoxy] -2-pyrimidinecarboxaldehyde oxime (0.2 g, 0.6 mmoles) is dissolved in 10 mL of acetonitrile and cooled to 0° C. The vilsmier reagent prepared above is added to the pyrimidine solution at 0° C. After 3 hours at 0° C., the reaction is quenched by the addition of 10 mL of saturated sodium bicarbonate and extracted with ether (3×10 mL). The organic extract is washed with 50 mL of brine and dried over magnesium sulfate. Evaporation of the solvent gives a red oil which is purified by flash chromatography (silica, 10% ether/chloroform) to give 4,6-bis (1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidinecarbonitrile (43 mg, 22%) as an oil.

reactant | Dimethylformamide | 0.6 mmoles, 0.05 g | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 0.9 mmoles, 0.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)-methoxy] -2-pyrimidinecarboxaldehyde oxime | 0.6 mmoles, 0.2 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C=NO | C17H29N3O4
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4,6-bis (1,1-dimethylethyl)-5-[(2-methoxyethoxy) methoxy]-2-pyrimidinecarbonitrile | 43 mg, 22% | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C#N | C17H27N3O3
